US05223505
A mixture of 2-ethylamino-4-hydroxy-6-propylpyrimidine (1.81 g, 10 mM) and phosphorus oxychloride (15 ml) was heated at 100° C. for 18 hours. The excess of phosphorus oxychloride was removed under reduced pressure and the residual was decomposed with ice-water (50 ml). The solution was made basic with concentrated aqueous ammonia and extracted with ethyl acetate (3×50 ml). The extracts were combined, dried and the solvent evaporated to give 4-chloro-2-ethylamino-6-propylpyrimidine (1.79 g; 90% yield) as an oil which was used without purification.

reactant | 2-ethylamino-4-hydroxy-6-propylpyrimidine | 10 mM, 1.81 g | C(C)NC1=NC(=CC(=N1)O)CCC | C9H15N3O
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-ethylamino-6-propylpyrimidine | 1.79 g, 90% yield | ClC1=NC(=NC(=C1)CCC)NCC | C9H14ClN3
